US07465726B2
6-{1-[4-(Dimethylamino)butanoyl]-1,2,3,6-tetra-hydropyridin-4-yl}-N-1,3-benzothiazol-6-yl-7H-pyrrolo[2,3-d]pyrimidin-4-amine
To a solution of benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine trihydrochloride (50.0 mg, 0.11 mmol) in DMF (3 mL) was added 4-(dimethylamino)butyric acid hydrochloride (17 mg, 0.13 mmol), TBTU (42 mg, 0.13 mmol) and N,N-diisopropylethylamine (0.11 mL). The reaction mixture was left to stir at rt over the weekend. The crude mixture was concentrated in vacuo and purified via MDP, which afforded the title compound as a tan solid. MS (ES+): m/z: 461.99 (100) [MH+]. HPLC: tr=1.82 min (ZQ2000: polar—5 min). 1H NMR (400 MHz, DMSO-d6): δ=1.63-1.68 (m, 2H), 2.10 (s, 3H), 2.11 (s, 3H), 2.18-2.24 (m, 2H), 2.33-2.43 (m, 2H), 2.54-2.56 (m, 2H), 3.67-3.72 (m, 2H), 4.15 (bs, 1H), 4.21 (bs, 1H), 6.45 (s, 1H), 6.84 (d, J=6.4 Hz, 1H), 7.87 (dd, J=1.6, 8.8 Hz, 1H), 8.03 (d, J=8.8 Hz, 1H), 8.34 (s, 1H), 8.92 (s, 1H), 9.23 (s, 1H), 9.61 (s, 1H), 12.02 (d, J=11.2 Hz, 1H).

reactant | benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine trihydrochloride | 0.11 mmol, 50.0 mg | Cl.Cl.Cl.S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCNCC1
reactant | 4-(dimethylamino)butyric acid hydrochloride | 0.13 mmol, 17 mg | Cl.CN(CCCC(=O)O)C
reactant | TBTU | 0.13 mmol, 42 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.11 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-{1-[4-(Dimethylamino)butanoyl]-1,2,3,6-tetra-hydropyridin-4-yl}-N-1,3-benzothiazol-6-yl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | CN(CCCC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=CC3=C(N=CS3)C=C2)N1)C | C24H27N7OS
